US09120823B2
A mixture of an iron powder (1.7 g), acetic acid (2.2 ml), ethanol (80 ml), and water (25 ml) was stirred at 70° C. To the reaction mixture was added dropwise a mixture of (4-iodo-2-nitro-phenyl)-methyl-amine (2.0 g) and ethanol (20 ml). After that, the mixturee was stirred at 70° C. for 6 hours. Then, the reaction mixture was filtrated and thoroughly washed with THF. The resulting filtrate was concentrated under reduced pressure. To the resulting residue was poured saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 4-iodo-N1-methyl-benzene-1,2-diamine (1.6 g)

reactant | acetic acid | 2.2 ml | C(C)(=O)O | C2H4O2
reactant | water | 25 ml | O | H2O
reactant | (4-iodo-2-nitro-phenyl)-methyl-amine | 2.0 g | IC1=CC(=C(C=C1)NC)[N+](=O)[O-] | C7H7IN2O2
catalyst | iron | 1.7 g | [Fe] | Fe
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 4-iodo-N1-methyl-benzene-1,2-diamine | 1.6 g | IC=1C=C(C(=CC1)NC)N | C7H9IN2
